US04238621
N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide
To 37 g of 2-amino-4,6-dimethylpyrimidine in 500 ml of anhydrous acetonitrile was added 67 g of 2-methoxycarbonylbenzenesulfonyl isocyanate with stirring at ambient temperature. The resulting mixture was thereafter stirred for sixteen hours and then filtered to remove the desired product which had precipitated as a white solid, m.p. 198°-202°. It showed infrared absorption peaks at 1750, 1700, 1600 and 1550 cm-1, consistent for the desired compound.

reactant | 2-amino-4,6-dimethylpyrimidine | 37 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 2-methoxycarbonylbenzenesulfonyl isocyanate | 67 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O5S
